US08557805B2
2-{2-[5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-N-methylacetamide
A mixture of {2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (300 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (231 mg), 1-hydroxybenzotriazole (162 mg), methylamine hydrochloride (81 mg), triethylamine (0.2 mL), and N,N-dimethylformamide (15 mL) was stirred at room temperature for 2 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (methanol:ethyl acetate:hexane=0:50:50 to 10:90:0, volume ratio) to give an orange oil. The obtained orange oil was purified by preparative HPLC to give the title compound (150 mg, yield 49%) as a white amorphous solid.

reactant | {2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 300 mg | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C25H27N3O6S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 231 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 162 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine hydrochloride | 81 mg | Cl.CN
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 2-{2-[5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-N-methylacetamide | 150 mg, yield 49% | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)NC | C26H30N4O5S
